US07737141B2
Synthesis of (2R,5S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-2-carboxylic acid ethyl ester
To a solution of (R)-5-(3,4,5-trifluorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester (12.4 g) in ethanol (170 mL) was added 10% palladium-carbon (1.2 g, 50% water content). Under a hydrogen atmosphere, the reaction mixture was stirred for 16 hours at room temperature. The catalyst was filtered off over Celite. The obtained filtrate was concentrated, to thereby obtain the titled compound (11.98 g). The physical properties of the compound were as follows.

reactant | (R)-5-(3,4,5-trifluorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester | 12.4 g | C(C)OC(=O)[C@@H]1N=C(CC1)C1=CC(=C(C(=C1)F)F)F | C13H12F3NO2
solvent | ethanol | 170 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.2 g | [C].[Pd]
product | (2R,5S)-5-(3,4,5-trifluorophenyl)-pyrrolidine-2-carboxylic acid ethyl ester | 11.98 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC(=C(C(=C1)F)F)F | C13H14F3NO2
